US07772223B2
4-Cyano-4,4-Diphenylbutanoyl Chloride
N,N-Dimethyltormamide (1 drop) was added to a suspension of 4-cyano-4,4-diphenylbutanoic acid [(7.8 g, 29 mmol), WO97/24325] and oxalyl chloride (5.2 mL, 60 mmol) in dichloromethane (40 mL) and the mixture was stirred at room temperature for 2 hours. The reaction mixture was then concentrated in vacuo and the residue was azeotroped with toluene (3×50 mL) to afford the crude title compound. The material was used in preparation 60 without further purification.

reactant | 4-cyano-4,4-diphenylbutanoic acid | 29 mmol, 7.8 g | C(#N)C(CCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H15NO2
reactant | oxalyl chloride | 60 mmol, 5.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-Cyano-4,4-Diphenylbutanoyl Chloride | C(#N)C(CCC(=O)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H14ClNO
